US09029361B2
Part C. Preparation of tert-butyl (8S,9aS)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate
To tert-butyl (8S,9aS)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate (270 mg, 1 mmol, Part B) and 2-bromo-5-cyclopropylpyrazine (299 mg, 1.5 mmol) in tetrahydrofuran (3 mL) and dichloromethane (1 mL) was added potassium t-butoxide (3 mL, 3 mmol, 1 M in tetrahydrofuran). The mixture was stirred at room temperature for three days, and then concentrated. The residue was purified by chromatography on silica gel (ethyl acetate) to give 255 mg (65.6% yield) of the title compound as a solid. 1H NMR (400 MHz, CDCl3) δ ppm 0.98 (m, 4H), 1.47 (s, 9H), 2.01 (m, 2H), 2.61 (m, 3H), 3.01 (m, 2H), 3.80-3.98 (m, 3H), 4.22 (m, 2H), 5.40 (m, 1H), 7.95 (d, J=1 Hz, 1H), 8.02 (d, J=1 Hz, 1H); MS (ESI) m/z 389.0 (M+H)+.

reactant | tert-butyl (8S,9aS)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | 1 mmol, 270 mg | O[C@H]1C[C@@H]2N(C(CCN(C2)C(=O)OC(C)(C)C)=O)C1 | C13H22N2O4
reactant | 2-bromo-5-cyclopropylpyrazine | 1.5 mmol, 299 mg | BrC1=NC=C(N=C1)C1CC1 | C7H7BrN2
reactant | potassium t-butoxide | 3 mmol, 1 M, 3 mL | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | tert-butyl (8S,9aS)-8-[(5-cyclopropylpyrazin-2-yl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | 255 mg, 65.6% yield | C1(CC1)C=1N=CC(=NC1)O[C@H]1C[C@@H]2N(C(CCN(C2)C(=O)OC(C)(C)C)=O)C1 | C20H28N4O4
